Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
Poor PO intake
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
Ms ___ is a ___ w/hx ESRD s/p cadaveric tx in ___ 
prednisone and tacrolimus, baseline Cr 1.5-2), hx cerebral 
aneurysm, chronic back, leg pain and spinal stenosis, HTN, 
osteonecrosis who is presenting from home by ambulance with 
recurrent back pain, decreased PO intake, FTT  
 Pt states she ___ been eating at home since she was recently 
DC'd for admission with similar presentation. This is ___ 
combination of severe back pain, decreased hunger, chronic 
abdominal pain. Per the ED dash, the patient was found at home 
with rotting food throughout the apt and many unfilled 
prescriptions. Pt states she has been taking her Prograf. Pt 
denying any AMS, though per ED dash pt having increased AMS from 
baseline improved with IVF hydration. Per neighbors, ___ 
eaten since DC'd.  
 
Past Medical History:
RENAL:
# s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2   
# Acute interstitial nephritis ___ presumably from ranitidine 
 
# Polyneuropathy in renal disease  
# Anemia  of chronic disease

CARDIAC:
# CAD: NSTEMI ___, s/p cardiac cath without intervention 
# Paroxysmal atrial fibrillation 
# Hypertension
# Hyperlipidemia  
# Diastolic dysfunction  
# H/o DVT  

ENDOCRINE:
# Hypothyroidism  
# Osteopenia ___ chronic steroid use

SURGERY
# s/p craniotomy for ICH (?intracranial aneurysm)  
# s/p foot surgeries  

GI/HEPATOLOGY
# GERD

SURGERY
# Osteonecrosis of bilateral feet c/b osteomyelitis 
# osteonecrosis of L hip requiring surgical intervention and 
girdlestone procedure
# s/p cholecystecomy, s/p appendectomy  
# small intestinal adenoma with endoscopic resection c/b bowel 
perforation requiring ex-lap in ___  
# Cataract surgery  

INFECTIOUS
# MRSA osteomyelitis ___  
# Hx of c.diff 2 and ___ yrs ago  
# recurrent UTI (lower urinary tract infection)  

PSYCH
# Panic disorder  

HEENT
# Hearing loss of both ears   

MISC
# Chronic low back pain w/ sciatica 
 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION:
Vital Signs: 98.4 115/66 81 16 100 RA  
 General: AAox2.5 (doesn't know date), no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, ___ RUSB sys 
murmur  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-distended, diffusely tender, bowel sounds 
present, no organomegaly, mild rebound, no guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, chronic ___ skin changes  
 Neuro: CNII-XII intact, unable to elevate Lt leg, grossly 
normal sensation, no pronator drift.   

DISCHARGE:
VS - 98.4  99/58  68  18  100%RA
General: NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: +BS, soft, mild TTP diffusely without localization, 
nondistended, no HSM appreciated.   
Ext: warm, pulses 2+/intact bilaterally, Chronic venous stasis 
changes and ___ edema bilaterally.  
Neuro: CNII-XII intact, unable to elevate Lt leg ___ pain, 
grossly normal sensation, no pronator drift. 
Mental status: alert and oriented. Answers questions 
appropriately. 
 
Pertinent Results:
ADMISSION:
___ 10:05PM   PLT COUNT-204
___ 10:05PM   ___ PTT-36.4 ___
___ 10:05PM   NEUTS-58.2 ___ MONOS-11.3 EOS-2.5 
BASOS-0.7 IM ___ AbsNeut-3.44 AbsLymp-1.50 AbsMono-0.67 
AbsEos-0.15 AbsBaso-0.04
___ 10:05PM   WBC-5.9 RBC-3.76* HGB-10.2* HCT-34.6 MCV-92 
MCH-27.1 MCHC-29.5* RDW-17.5* RDWSD-58.0*
___ 10:05PM   ALBUMIN-2.8* CALCIUM-9.0 PHOSPHATE-3.1 
MAGNESIUM-1.7
___ 10:05PM   cTropnT-<0.01
___ 10:05PM   ALT(SGPT)-6 AST(SGOT)-27 ALK PHOS-81 TOT 
BILI-0.3
___ 10:05PM   GLUCOSE-154* UREA N-16 CREAT-1.3* SODIUM-131* 
POTASSIUM-4.6 CHLORIDE-94* TOTAL CO2-22 ANION GAP-20
___ 10:08PM   LACTATE-1.0
___ 10:30PM URINE  MUCOUS-RARE
___ 10:30PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-70 KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-POS* mthdone-NEG

INTERVAL: None pertinent

DISCHARGE:
___ 04:30AM BLOOD Glucose-86 UreaN-17 Creat-1.3* Na-137 
K-3.6 Cl-100 HCO3-28 AnGap-15
___ 04:30AM BLOOD WBC-6.0 RBC-3.51* Hgb-9.4* Hct-32.0* 
MCV-91 MCH-26.8 MCHC-29.4* RDW-18.2* RDWSD-59.0* Plt ___
___ 04:30AM BLOOD Calcium-9.2 Phos-2.2* Mg-1.9

IMAGING/STUDIES:
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

Chest X-ray ___:
IMPRESSION:  
  
No acute cardiopulmonary process.  Specifically no pneumonia. 

Renal Transplant Ultrasound ___:
IMPRESSION:  
  
1.  No renal transplant abnormality.  Patent renal vasculature 
with resistive 
indices within normal range.  No hydronephrosis. 
2.  Stable 5.2 cm simple right upper pole cyst within the 
transplanted kidney. 

Right Hip X-ray ___:
IMPRESSION:  
  
No evidence of an acute fracture or dislocation.  Chronic 
changes as described 
above 

Head CT without Contrast ___:
IMPRESSION: 
  
  
1. Chronic age-related changes. 
2. No evidence of infarction, hemorrhage, edema, or mass. 

 
Brief Hospital Course:
Ms ___ is a ___ w/hx ESRD s/p cadaveric tx in ___ 
prednisone and tacrolimus, baseline Cr 1.5-2), chronic back, leg 
pain and spinal stenosis, HTN, osteonecrosis who presented by 
ambulance with recurrent back pain, decreased PO intake, FTT 
following recent discharge from ___ on ___. Patient stated 
she did not eat due to poor pain control and inability to 
ambulate. She was also limited by chronic abdominal pain. X-ray 
of the right hip showed no acute changes or fracture. Her pain 
medications were uptitrated with acetaminophen, oxycontin and 
oxycodone. Patient maintained fair PO intake during admission. 

# AMS/FTT: Patient presented with altered mental status and 
failure to thrive due to poor PO intake. Patient was discharged 
4 days prior to admission and have very little PO intake x 4 
days. Per EMS, pt's apt was in disarray. Per pt, she is unable 
to take care of herself ___ her back pain/abdominal pain. AMS 
improved s/p D50 and IVF. Per comparison with prior records, pt 
appears to be at baseline mental status. It was believed the 
patient did not fill any of her prescriptions and was not taking 
her medications. While admitted, patient restarted her home 
medications and back pain and abdominal pain were continued as 
described below. 
 -___, SW, Nutrition consults. Recommending rehab and Ensure 
nutrition supplements with meals. 
 -Encouraged PO intake with regular diet.  

# Back pain: Pt with history of polyosteoarthritis, chronic LBP, 
AVN of the hip s/p L total hip arthroplasty s/p hardware 
removal, R hip OA, polyneuropathy, spinal stenosis. Per pt, pain 
is at chronic baseline. Pain medication regimen was decreased at 
previous discharge ___ to AMS and concern for somnolence, 
however, patient with poorly controlled pain on admission. X-ray 
R hip shows no new acute changes or fractures. Doses of pain 
medications were increased as below:
 - Oxycontin 10mg Q12hrs
 - Oxycodone 2.5mg Q6hrs PRN
 - Acetaminophen 1000mg PO TID
 - Avoid NSAIDs given ?ulcer  
 - c/w home duloxetine dose

# Abdominal Pain/GERD: Pt reports chronic abdominal pain at 
baseline. Per recent admission, OSH EGD ___ notable for 
grade II esophageal varices and gastric ulcer. Recent RUQ U/S 
with suspicion for cirrhosis. LFTs wnl on admission. Describing 
pain with swallowing in esophagus. Worse after eating. Patient 
already closely followed by GI with no new or concerning 
findings on physical exam. 
 - Continue omeprazole PPI BID  
 - Added sucralfate TID PRN 
 - Avoid NSAIDs  
 - outpatient hepatology f/u  
 - outpatient gastroenterology f/u with PCP

#UTI: Urine cultures from admission grew E coli that was 
pan-sensitive. UA at the time was negative for signs of 
infection. However, given patient's immunosuppressive therapy, 
decision was made to treat UTI x 4days.
- Cefpodoxime 100mg BID x 4 days (___)

# ESRD s/p cadaveric transplant, CKD: Baseline Cr 1.5-2, 
currently at baseline. Pt has been making urine. Received 500cc 
NS in ED.  
 - Continue home tacrolimus, prednisone  
 - Continue home calcitriol  
 - Continue home acyclovir.
 - Follow up in transplant clinic with nephrology. 
 
 # Anemia: Most recent labs notable for elevated ferritin, c/w 
ACD.  
 - Continue to trend CBC  

 # pAFib: Not AC at baseline. Continued home metoprolol

 # Cdiff: Continued PO vancomycin. Will need extended course 
given UTI treatment (last day ___. 
  
 # CAD:   
 - c/w home statin, metoprolol, ASA  

 # HTN:  
 - c/w home Metop  
 
TRANSITIONAL ISSUES:
-Abdominal pain: Added sucralfate. Has GI f/u appointment
-Chronic hip pain: increased frequency of oxycodone
-UTI, complicated: Needs cefpodoxime until ___ (total 14d 
course)
**Patient will not stay in rehab longer than 30 days**
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. ClonazePAM 0.5 mg PO QHS:PRN anxiety 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Lidocaine 5% Patch 1 PTCH TD QPM R hip pain 
7. Omeprazole 40 mg PO Q12H 
8. Ondansetron 4 mg PO Q6H:PRN nausea 
9. OxyCODONE (Immediate Release) 2.5 mg PO BID:PRN Pain - 
Moderate 
10. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
11. PredniSONE 5 mg PO DAILY 
12. Rosuvastatin Calcium 40 mg PO Q24H 
13. Tacrolimus 0.5 mg PO Q12H 
14. Acetaminophen 1000 mg PO TID 
15. DULoxetine 30 mg PO DAILY 
16. Multivitamins W/minerals 1 TAB PO DAILY 
17. Vancomycin Oral Liquid ___ mg PO Q6H 
18. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO Q12H Duration: 12 Days 
Last day ___ 
RX *cefpodoxime 100 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*23 Tablet Refills:*0 
2.  Sucralfate 1 gm PO TID:PRN abdominal pain  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth Q6H PRN 
Disp #*14 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO TID  
5.  Acyclovir 400 mg PO Q12H  
6.  Aspirin 81 mg PO DAILY  
7.  Calcitriol 0.5 mcg PO DAILY  
8.  ClonazePAM 0.5 mg PO QHS:PRN anxiety  
9.  DULoxetine 30 mg PO DAILY  
10.  Levothyroxine Sodium 125 mcg PO DAILY  
11.  Lidocaine 5% Patch 1 PTCH TD QPM R hip pain  
12.  Metoprolol Succinate XL 50 mg PO DAILY  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Omeprazole 40 mg PO Q12H  
15.  Ondansetron 4 mg PO Q6H:PRN nausea  
16.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone 10 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*10 Tablet Refills:*0 
17.  PredniSONE 5 mg PO DAILY  
18.  Rosuvastatin Calcium 40 mg PO Q24H  
19.  Tacrolimus 0.5 mg PO Q12H  
20.  Vancomycin Oral Liquid ___ mg PO Q6H 
Last day ___ (14 days after last dose cefpoxodime)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: Failure to thrive, Malnutrition, Chronic Hip 
Pain, Chronic Back Pain, Spinal Stenosis, urinary tract 
infection

Secondary Diagnoses: ESRD s/p cadaveric tx, Anemia, AFib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation because you had difficulty eating and for pain 
control. While you were in the hospital, your pain medications 
were increased and your pain was better controlled. 

You are being discharged to a rehab facility. Please follow up 
with your gastroenterologist to continue to work-up your 
abdominal pain. 

It was a pleasure taking care of you at ___. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___